US07060827B2
In a manner similar to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, with the addition of triethylamine, 2,4-dichloro-6-ethoxycarbonyl-5-nitropyrimidine and glycine ethyl ester hydrochloride were reacted to yield N2,N4-bis(ethoxycarbonylmethyl)-6-ethoxycarbonyl-5-nitro-2,4-pyrimidinediamine. 1H NMR (CDCl3): mixture of rotamers δ 8.99 and 8.80 (2bs, 1H), 6.22 and 6.00 (2bs, 1H), 4.45 (t, 2H, J=7.2 Hz), 4.314.21 (m, 6H), 4.14 (d, 2H, J=5.1 Hz), 1.39 (t, 3H, J=7.2 Hz), 1.34–1.28 (m, 6H); LCMS: ret. time: 26.06 min.; purity: 99%; MS (m/e): 400 (MH+).

reactant | N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C16H13FN4O2
reactant | 2,4-dichloro-6-ethoxycarbonyl-5-nitropyrimidine | ClC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])C(=O)OCC | C7H5Cl2N3O4
reactant | glycine ethyl ester hydrochloride | Cl.C(C)OC(CN)=O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N2,N4-bis(ethoxycarbonylmethyl)-6-ethoxycarbonyl-5-nitro-2,4-pyrimidinediamine | C(C)OC(=O)CNC1=NC(=C(C(=N1)NCC(=O)OCC)[N+](=O)[O-])C(=O)OCC | C15H21N5O8
